US07714004B2
Preparation of 4-(1,3-benzodioxol-5-yl)-2-chloropyrimidine
To a mixture of 3,4-dioxolanephenylboronic acid (0.938 g, 5.54 mmol) and 2,4-dichloropyrimidine (1 g, 6.65 mmol) in toluene (112 mL) were added 1,4-dioxane (14 mL) and PdCl2(dppf).CH2Cl2(0.452 g, 0.554 mmol). The mixture was purged with argon for 15 min after which a 2M aqueous solution of Na2SO4 (28 mL, 56 mmol) was added. The reaction mixture was stirred at 75° C. for 24 h, cooled to rt, and then washed with saturated solution of NaHCO3. The organic layer was separated from the mixture, and the aqueous phase extracted with EtOAc. The combined organic phases were dried (Na2SO4), filtered, and concentrated under reduced pressure. The residue was then purified by silica gel flash chromatography (1:5 EtOAc/Hexanes) to give the product (324 mg, 25%) as crystalline white needles. 1H NMR (400 MHz, acetone-d6): δ 6.15 (s, 2H), 7.18 (d, 1H), 7.70 (d, 1H), 7.84 (d, 1H), 7.96 (d, 1H), 8.71 (d, 1H); LC-MS: RT=2.65 min, (M+H)+ 235.2.

reactant | 2,4-dichloropyrimidine | 6.65 mmol, 1 g | ClC1=NC=CC(=N1)Cl | C4H2Cl2N2
reactant | 1,4-dioxane | 14 mL | O1CCOCC1 | C4H8O2
reactant | CH2Cl2 | 0.554 mmol, 0.452 g | C(Cl)Cl | CH2Cl2
reactant | Na2SO4 | 56 mmol, 28 mL | [O-]S(=O)(=O)[O-].[Na+].[Na+]
reactant | toluene | 112 mL | C1(=CC=CC=C1)C | C7H8
catalyst | PdCl2(dppf) | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 4-(1,3-benzodioxol-5-yl)-2-chloropyrimidine | 324 mg, 25% | O1COC2=C1C=CC(=C2)C2=NC(=NC=C2)Cl | C11H7ClN2O2
